US06953806B2
In analogy to the method described in example 12.1, trans-N-{2-[4-(3-chloro-(E)-propenyl)-cyclohexyl]-ethyl}-N-methyl-4-trifluoromethyl-benzenesulfonamide was reacted with piperidine in N,N-dimethylacetamide at room temperature to yield trans-N-methyl-N-{2-[4-(3-piperidin-1-yl-(E)-propenyl)-cyclohexyl]-ethyl}-4-trifluoromethyl-benzenesulfonamide as colorless viscous oil, MS: 473 (MH+).

reactant | trans-N-{2-[4-(3-chloro-(E)-propenyl)-cyclohexyl]-ethyl}-N-methyl-4-trifluoromethyl-benzenesulfonamide | ClC/C=C/[C@@H]1CC[C@H](CC1)CCN(S(=O)(=O)C1=CC=C(C=C1)C(F)(F)F)C | C19H25ClF3NO2S
reactant | piperidine | N1CCCCC1 | C5H11N
solvent | N,N-dimethylacetamide | CN(C(C)=O)C | C4H9NO
product | trans-N-methyl-N-{2-[4-(3-piperidin-1-yl-(E)-propenyl)-cyclohexyl]-ethyl}-4-trifluoromethyl-benzenesulfonamide | CN(S(=O)(=O)C1=CC=C(C=C1)C(F)(F)F)CC[C@@H]1CC[C@H](CC1)\C=C\CN1CCCCC1 | C24H35F3N2O2S
